US06762180B1
(3) N-[(2-(4-tert.butoxycarbonyl-piperazin-1-yl)-ethyl)-carbonyl]-N-methyl-4-nitro-aniline
Prepared from N-acryloyl-N-methyl-4-nitro-aniline and N-tert.butoxycarbonyl-piperazine

reactant | N-acryloyl-N-methyl-4-nitro-aniline | C(C=C)(=O)N(C1=CC=C(C=C1)[N+](=O)[O-])C | C10H10N2O3
reactant | N-tert.butoxycarbonyl-piperazine | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
product | N-[(2-(4-tert.butoxycarbonyl-piperazin-1-yl)-ethyl)-carbonyl]-N-methyl-4-nitro-aniline | C(C)(C)(C)OC(=O)N1CCN(CC1)CCC(=O)N(C1=CC=C(C=C1)[N+](=O)[O-])C | C19H28N4O5
